US05665718
1.85 ml (13.4 mmol) of trifluoroacetic anhydride were added dropwise at <8° to a suspension of 3.72 g (12.8 mmol) of 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide in 17 ml of dioxan and 2 ml of pyridine. The beige solution obtained was stirred at 50°-60° for 4 hrs., cooled and treated with 80 ml of water. The white crystals were filtered off under suction and dried in a high vacuum. There were obtained 3.08 g (88%) of 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile as colourless crystals of m.p. 272°-275°.

reactant | trifluoroacetic anhydride | 13.4 mmol, 1.85 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 12.8 mmol, 3.72 g | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)N)C)=O)C1 | C13H11ClN4O2
reactant | water | 80 ml | O | H2O
solvent | dioxan | 17 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 3.08 g, 88% | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C#N)C)=O)C1 | C13H9ClN4O
